US04753953
1-Cyclopropyl-6,8-difluoro-1,4-dihydro-7-(3-methylamino-4-methyl-1-pyrrolidinyl)-4-oxo-3-quinolinecarboxylic acid hydrochloride
7-[3-(N-Acetyl-N-methylamino)-4-methyl-1-pyrrolidinyl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.56 g) was dissolved in 20% aqueous hydrochloric acid solution (5 ml) and refluxed for 2 hours. Then the reacting mixture was concentrated under reduced pressure, to the resulting residue was added ethanol (10 ml) and crystallized with cooling. The resulting precipitate was collected by filtration and recrystallized from methanol to give the title compound as pale yellow powder, mp 242°-246° C.

reactant | 7-[3-(N-Acetyl-N-methylamino)-4-methyl-1-pyrrolidinyl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.56 g | C(C)(=O)N(C)C1CN(CC1C)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C21H23F2N3O4
reactant | hydrochloric acid | 5 ml | Cl | ClH
product | 1-Cyclopropyl-6,8-difluoro-1,4-dihydro-7-(3-methylamino-4-methyl-1-pyrrolidinyl)-4-oxo-3-quinolinecarboxylic acid hydrochloride | Cl.C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(C(C1)C)NC)F)=O)C(=O)O | InChI=1S/C19H21F2N3O3.ClH/c1-9-6-23(8-14(9)22-2)17-13(20)5-11-16(15(17)21)24(10-3-4-10)7-12(18(11)25)19(26)27;/h5,7,9-10,14,22H,3-4,6,8H2,1-2H3,(H,26,27);1H
